US04413009
N-(((1,1-dimethylethyl)amino)carbonyl)-N-((((1,1-dimethylethyl)amino)carbonyl)oxy)acetamide
Acetohydroxamic acid (7.5 grams), tert-butyl isocyanate (22 grams) and a few drops of triethylamine were stirred in 80 ml of methylene chloride for about 48 hours. After stirring, the solvent was removed under vacuum leaving a residue which was recrystallized from a solution containing methylene chloride and hexane. A subsequent recrystallization from methylene chloride left the desired, N-(((1,1-dimethylethyl)amino)carbonyl)-N-((((1,1-dimethylethyl)amino)carbonyl)oxy)acetamide, m.p. 111°-113° C.

reactant | Acetohydroxamic acid | 7.5 grams | C(C)(=O)NO | C2H5NO2
reactant | tert-butyl isocyanate | 22 grams | C(C)(C)(C)N=C=O | C5H9NO
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | N-(((1,1-dimethylethyl)amino)carbonyl)-N-((((1,1-dimethylethyl)amino)carbonyl)oxy)acetamide | CC(C)(C)NC(=O)N(C(C)=O)OC(=O)NC(C)(C)C | C12H23N3O4
